US09210927B2
Preparation of 2-((4-Bromophenyl)amino)isoindoline-1,3-dione (CI72)
To a stirred solution of (4-bromophenyl)hydrazine hydrochloride (0.5 g, 2.2 mmol) in glacial acetic acid (8 mL) was added phthalic anhydride (0.398 g, 2.690 mmol), and the reaction mixture was stirred at 130° C. for 1 h under a nitrogen atmosphere. The reaction mixture was quenched with satd aq. NaHCO3 solution and filtered to give a solid. Purification by column chromatography (SiO2, 0-10% EtOAc in petroleum ether) afforded the title compound as a solid (60 mg, 84%): mp 205-206° C.; 1H NMR (400 MHz, CDCl3) δ 8.71 (s, 1H), 7.99 (m, 4H), 7.32 (d, J=8.8 Hz, 2H), 6.79 (d, J=8.8 Hz, 2H); ESIMS m/z 314.95 ([M−H]−).

reactant | (4-bromophenyl)hydrazine hydrochloride | 2.2 mmol, 0.5 g | Cl.BrC1=CC=C(C=C1)NN
reactant | phthalic anhydride | 2.690 mmol, 0.398 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 2-((4-Bromophenyl)amino)isoindoline-1,3-dione | 60 mg, 84% | BrC1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
